US04589905
A solution of 5.6 g of 5-bromo-1-phenyl-N-methyl-1H-pyrazole-4-carboxamide and 2 g of sodium cyanide in 30 ml of DMF was heated at approximately 100° C. for 24 hours. An additional 2 g of sodium cyanide was next added to the reaction mixture which was then heated for an additional 24 hours at 100° C. The solution was poured into ice water and the precipitated solid was collected by filtration. The product thus isolated was recrystallized from 3A ethanol to provide 1.8 g of 5-cyano-1-phenyl-N-methyl-1H-pyrazole-4-carboxamide. MP=203°-204° C.

reactant | 5-bromo-1-phenyl-N-methyl-1H-pyrazole-4-carboxamide | 5.6 g | BrC1=C(C=NN1C1=CC=CC=C1)C(=O)NC | C11H10BrN3O
reactant | sodium cyanide | 2 g | [C-]#N.[Na+]
reactant | sodium cyanide | 2 g | [C-]#N.[Na+]
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 5-cyano-1-phenyl-N-methyl-1H-pyrazole-4-carboxamide | 1.8 g | C(#N)C1=C(C=NN1C1=CC=CC=C1)C(=O)NC | C12H10N4O
